US06326369B1
2,3-Dimethoxy-7-[2-(2-oxo-1,2-dihydro-1-quinolyl)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a mixture of 1-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1,2-dihydro-2-quinolinone (612 mg), pyridine-2,6-dicarboxylic acid (702 mg), THF (12 ml), and, water (6 ml) was added an water (6 ml) solution of CAN (3.07 g) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography(hexane to hexane:ethyl acetate=8:1) and then with recrystallization from hexane-ethyl acetate to obtain the entitled compound (310 mg).

reactant | 1-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1,2-dihydro-2-quinolinone | 612 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCN2C(C=CC1=CC=CC=C21)=O)OC)OC)OC | C26H31NO5
reactant | pyridine-2,6-dicarboxylic acid | 702 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | CAN | 3.07 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | O | H2O
solvent | water | 6 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 2,3-Dimethoxy-7-[2-(2-oxo-1,2-dihydro-1-quinolyl)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 310 mg | COC1=C(C(C2=C(CCC(CC2)CCN2C(C=CC3=CC=CC=C23)=O)C1=O)=O)OC | C24H25NO5
